US04576732
5 g of 4'-n-octyloxy-4-hydroxybiphenyl, 1.5 g of potassium hydrooxide, and 100 g of 95% ethanol were heated under reflux, and a solution wherein 4.2 g of p-bromobenzyl bromide was dissolved in 100 ml of ethanol was added thereto to effect reaction for 2 hours. The reaction liquid was treated in the ordinary method to obtain 6.1 g of 4'-n-octyloxy-4-biphenylyl p-bromobenzyl ether after recrystallization from ethyl acetate. The obtained product showed the following phase transition temperatures:

reactant | 4'-n-octyloxy-4-hydroxybiphenyl | 5 g | C(CCCCCCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)O | C20H26O2
reactant | potassium | 1.5 g | [K] | K
reactant | p-bromobenzyl bromide | 4.2 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 100 g | C(C)O | C2H6O
product | 4'-n-octyloxy-4-biphenylyl p-bromobenzyl ether | 6.1 g | BrC1=CC=C(COC2=CC=C(C=C2)C2=CC=C(C=C2)OCCCCCCCC)C=C1 | C27H31BrO2
